US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0315 g, 0.0682 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0570 mL, 0.409 mmol) and 3,4-dimethoxybenzenesulfonyl chloride (0.0480 g, 0.205 mmol) to obtain 4-(3,4-dimethoxybenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0208 g, yield 46%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0682 mmol, 0.0315 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.409 mmol, 0.0570 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 0.205 mmol, 0.0480 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(3,4-dimethoxybenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0208 g, yield 46% | COC=1C=C(C=CC1OC)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C35H39N3O8S
